US07504403B2
2-(3,4-Dimethyl-phenyl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin4-one:
A suspension of 3-(3,4-dimethyl-phenyl)-3-oxo-propionic acid methyl ester (1.2 g, 5.8 mmol), tetrahydro-pyrimidin-2-ylideneamine hydrochloride (0.78 g, 5.8 mmol), and potassium carbonate (0.80 g, 5.8 mmol) in ethanol (20 mL) was heated to reflux for 4 h. Water (5 mL) was added to the reaction at room temperature and tan solid was collected by filtration. M+1=256.

reactant | 3-(3,4-dimethyl-phenyl)-3-oxo-propionic acid methyl ester | 5.8 mmol, 1.2 g | COC(CC(=O)C1=CC(=C(C=C1)C)C)=O | C12H14O3
reactant | tetrahydro-pyrimidin-2-ylideneamine hydrochloride | 5.8 mmol, 0.78 g | Cl.N1C(NCCC1)=N
reactant | potassium carbonate | 5.8 mmol, 0.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 5 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(3,4-Dimethyl-phenyl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin4-one | CC=1C=C(C=CC1C)C=1N=C2N(C(C1)=O)CCCN2 | C15H17N3O
